US08957068B2
Step 4: Preparation of (5-chloro-6-(1,1-difluoroethyl)pyridin-3-yl)methanol
To a solution of ethyl 5-chloro-6-(1,1-difluoroethyl)nicotinate (2.68 g, 10.74 mmol) in Et2O (40 mL) was added LiBH4 (0.351 g, 16.10 mmol), followed by dropwise addition of methanol (0.653 mL, 16.10 mmol). The reaction was refluxed at 40° C. for one hour. The reaction mixture was then cooled to 0° C., and quenched with HCl (1M) until pH=2 for aqueous layer. The phases were separated and the aqueous layer was extracted with DCM (3×50 mL). The organic was then dried (Na2SO4) and concentrated under reduced pressure to give final crude product (2.12 g). LCMS m/z 208.0 (M+H)+, Rt 0.63 min.

reactant | ethyl 5-chloro-6-(1,1-difluoroethyl)nicotinate | 10.74 mmol, 2.68 g | ClC=1C(=NC=C(C(=O)OCC)C1)C(C)(F)F | C10H10ClF2NO2
reactant | LiBH4 | 16.10 mmol, 0.351 g | [Li+].[BH4-]
reactant | methanol | 16.10 mmol, 0.653 mL | CO | CH4O
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | (5-chloro-6-(1,1-difluoroethyl)pyridin-3-yl)methanol | 2.12 g | ClC=1C=C(C=NC1C(C)(F)F)CO | C8H8ClF2NO
